US09107916B2
C. 2-(5-p-tolyl-1H-pyrazol-1-yl)isonicotinic acid
To a solution of 2-[5-(4-methylphenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile (120 mg, 0.46 mmol) in EtOH (1 mL) was added 10 M NaOH (1 mL) at rt, then stirred at 90° C. for 1 h. The reaction mixture was cooled, acidified with 1 N HCl to pH=3, extracted with EtOAc (20 mL), and washed with water and brine. The organic phase was dried, concentrated, triturated with EA/PE (1:1, 5 mL), filtered, and dried to give the title compound (60 mg, 47%) as a brown solid. 1H NMR (400 MHz, DMSO-d6): δ 2.30 (3H, s), 6.65 (1H, d, J=2.0 Hz), 7.13 (4H, s), 7.77 (1H, dd, J=4.8, 1.2 Hz), 7.82 (1H, d, J=1.2 Hz), 8.44 (1H, d, J=4.8 Hz), 13.97 (1H, br s). [M+H] Calc'd for C16H13N3O2, 280. Found, 280.

reactant | 2-[5-(4-methylphenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile | 0.46 mmol, 120 mg | CC1=CC=C(C=C1)C1=CC=NN1C1=NC=CC(=C1)C#N | C16H12N4
reactant | NaOH | 10 M, 1 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
reactant | EtOH | 1 mL | CCO | C2H6O
product | 2-(5-p-tolyl-1H-pyrazol-1-yl)isonicotinic acid | 60 mg, 47% | C1(=CC=C(C=C1)C1=CC=NN1C=1C=C(C(=O)O)C=CN1)C | C16H13N3O2
